US08461328B2
Sodium nitrite (612 mg, 8.87 mmol) was added to a stirred solution of racemic trans [3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-yl amino)-cyclopentyl]-carb amic acid tert-butyl ester (3.80 g, 8.06 mmol) in acetic acid (50 mL). Stirring was continued for 45 minutes at room temperature and then the solvent removed in vacuo. The residue was dissolved in ethyl acetate, washed (saturated sodium hydrogen carbonate (3×) and brine) and concentrated to dryness. Purification by column chromatography on silica gel (gradient: DCM to ethyl acetate) gave 3.39 g (87%) of racemic trans [3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid tert-butyl ester as a beige solid. LCMS (Method B, ESI): RT=4.00 min, m+H=483.3; 1H NMR (400 MHz, DMSO) δ: 9.20 (s, 1H), 8.15 (m, 3H), 7.73 (t, 1H), 7.63 (t, 2H), 7.45 (d, 1H), 7.15 (d, 1H), 5.65 (m, 1H), 4.21 (m, 1H), 2.44 (m, 2H, partially obscured by DMSO), 2.16 (m, 3H), 1.65 (m, 1H), 1.40 (s, 9H).

reactant | Sodium nitrite | 8.87 mmol, 612 mg | N(=O)[O-].[Na+]
reactant | racemic trans [3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-yl amino)-cyclopentyl]-carb amic acid tert-butyl ester | 8.06 mmol, 3.80 g | C(C)(C)(C)OC(N[C@@H]1C[C@H](CC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2)=O | C23H29N5O4S
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | racemic trans [3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid tert-butyl ester | 3.39 g, 87% | C(C)(C)(C)OC(N[C@@H]1C[C@H](CC1)N1N=NC2=CN=C3N(C=CC3=C12)S(=O)(=O)C1=CC=CC=C1)=O | C23H26N6O4S
